US05576429
1-(2,3-Dideoxy-5- O-tert-butyldiphenylsilyl-α-D-ribofuranosyl-5-(2-thienyl)uracil (0.15 g) was dissolved in tetrahydrofurane, 1M in tetrabutylammonium fluoride (3 ml) and stirred at ambient temperature for 1 hour. The solvent was evaporated and the product was purified by separation on preparative thin layer chromatography (silica-1 mm, ethyl acetate-methanol 9-1) to give 1, (2,3-dideoxy-α-D-ribofuranosyl)-5-(2-thienyl)uracil. TLC (silica, ethyl acetate-methanol 9-1) Rf 0.54.

reactant | 2,3-Dideoxy-5- O-tert-butyldiphenylsilyl-α-D-ribofuranosyl-5-(2-thienyl)uracil | 0.15 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1CC[C@H](O1)N1C(NC=C(C1=O)C=1SC=CC1)=O | C29H32N2O4SSi
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | tetrabutylammonium fluoride | 3 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2,3-dideoxy-α-D-ribofuranosyl)-5-(2-thienyl)uracil | [C@H]1(CC[C@H](O1)CO)N1C(NC=C(C1=O)C=1SC=CC1)=O | C13H14N2O4S
